datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[Cl:21])CC)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CC)CC.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([S]CC)[S]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OCC)C1=CC=CC=C1.[O-:21]C>>CCCCCCN([C:20]([O-:10])(OCC)[O:21]C)C1=CC=CC=C1 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21]C>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C)C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CC)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CC)CCCCCC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C([H])C(C)=C1O>>[O-:10]C([H])/C(C)=C([C:20](OCC)=[O:21])/O 21=20;20,10=10"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CC)CC>>CC1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21][H] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S:10]C([H])C(C)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][S:10]C(C)C([H])C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C(CC)C(C)C(O)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(O)C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C([H])C([H])C1O>>[O-:10]C([H])C([H])C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[S]2.C[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC)C 21=20;20,10=10"
"CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)OCCCCCC>>[O:20]=[C:21](OC1=CC=CC=C1)OCCCCCC.[H][O:10][K] 20=21;21,10=10"
"[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])CCCCCC)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CCCCCC)CCCCCC 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
